US09427442B2
Intermediate S-9A: 2-(3,3-Difluorocyclobutyl)acetic acid
A solution of 2-(3,3-difluorocyclobutyl)ethanol (270 mg, 2.0 mmol, prepared as described in Bogen, S. et al., Bioorg. Med. Chem. Lett., 18:4219 (2008)) in acetone (5 mL) was treated with Jones reagent (2.7 mmol, 1 mL of 2.7 M solution) over a period of 30 minutes at room temperature. After 2 hours, additional Jones reagent (0.25 mL) was added. After 1 hour, the reaction mixture was filtered through CELITE®, and concentrated under reduced pressure. The reaction mixture was re-dissolved in ethyl acetate (10 mL), washed with water (2×20 mL), brine (20 mL), and then dried over MgSO4, The mixture was then filtered and concentrated to isolate Intermediate S-9A (275 mg, 92% yield) as a tan solid. 1H NMR (500 MHz, chloroform-d) δ 2.74-2.87 (2H, m), 2.57-2.62 (2H, m), 2.48-2.56 (1H, m, J=8.60, 4.30, 4.30, 1.94 Hz), 2.23-2.35 (2H, m).

reactant | 2-(3,3-difluorocyclobutyl)ethanol | 2.0 mmol, 270 mg | FC1(CC(C1)CCO)F | C6H10F2O
reactant | Jones reagent | 2.7 mmol, 2.7 M, 1 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Jones reagent | 0.25 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 2-(3,3-Difluorocyclobutyl)acetic acid | 92% yield | FC1(CC(C1)CC(=O)O)F | C6H8F2O2
